US08058285B2
Synthesis of 8-(4-aminobenzyl)-4-ethoxy-7,9-dimethyl-2-piperazin-1-yl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine
40 mg 10% Pd/C and 0.5 ml (10 mmol) hydraziniumhydroxide are added to 0.36 g (0.8 mmol) 4-ethoxy-7,9-dimethyl-8-(4-nitrobenzyl)-2-piperazin-1-yl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine in 3 ml ethanol. Then, refluxing is carried for 10 h, the solvent is removed and the residue is taken up with 50 ml chloroform. Following filtration, the solvent is removed and the residue is recrystallized from chloroform/cyclohexane. 0.16 g (45%) of the title substance is obtained.

reactant | hydraziniumhydroxide | 10 mmol, 0.5 ml | [OH-].[NH3+]N
reactant | 4-ethoxy-7,9-dimethyl-8-(4-nitrobenzyl)-2-piperazin-1-yl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine | 0.8 mmol, 0.36 g | C(C)OC=1C2=C(N=C(N1)N1CCNCC1)C1=C(S2)N=C(C(=C1C)CC1=CC=C(C=C1)[N+](=O)[O-])C | C24H26N6O3S
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 8-(4-aminobenzyl)-4-ethoxy-7,9-dimethyl-2-piperazin-1-yl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine | NC1=CC=C(CC2=C(C3=C(SC4=C3N=C(N=C4OCC)N4CCNCC4)N=C2C)C)C=C1 | C24H28N6OS
